US07199147B2
A 1N-hydrochloric acid-diethyl ether solution (0.70 ml, 0.70 mmol) was added to a solution of 1-{4-[(4-methyl-1H-indazol-5-yl)oxy]cyclohexyl}-methanamine (150 mg, 0.578 mmol) in methanol (2 ml) at room temperature and stirred at the same temperature for 30 minutes. The solvent was distilled off under reduced pressure, and the residue was solidified with isopropyl alcohol-diisopropyl ether, filtered and then dried to obtain 1-{4-[(4-methyl-1H-indazol-5-yl)oxy]cyclohexyl}-methanamine hydrochloride (148 mg, 87%).

reactant | hydrochloric acid diethyl ether | 0.70 mmol, 0.70 ml | Cl.C(C)OCC
reactant | 1-{4-[(4-methyl-1H-indazol-5-yl)oxy]cyclohexyl}-methanamine | 0.578 mmol, 150 mg | CC1=C2C=NNC2=CC=C1OC1CCC(CC1)CN | C15H21N3O
solvent | methanol | 2 ml | CO | CH4O
product | 1-{4-[(4-methyl-1H-indazol-5-yl)oxy]cyclohexyl}-methanamine hydrochloride | 148 mg, 87% | Cl.CC1=C2C=NNC2=CC=C1OC1CCC(CC1)CN | InChI=1S/C15H21N3O.ClH/c1-10-13-9-17-18-14(13)6-7-15(10)19-12-4-2-11(8-16)3-5-12;/h6-7,9,11-12H,2-5,8,16H2,1H3,(H,17,18);1H
